US07199147B2
A 2M-aqueous lithium hydroxide solution (1.46 ml, 2.93 mmol) was added dropwise to a solution of 1-acetyl-6-methyl-1H-indazol-5-yl acetate (340 mg, 1.46 mmol) in a mixture of methanol (2.0 ml) and tetrahydrofuran (1.0 ml) at room temperature. After 1 hour, the reaction mixture was adjusted to pH 4 with a 0.5M-aqueous potassium hydrogensulfate solution. The resulting solution was poured into water (50 ml) and extracted with ethyl acetate (30 ml×3), and the extract solution was dried over anhydrous magnesium sulfate. The extract solution dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 6-methyl-1H-indazol-5-ol (199 mg, 92%).

reactant | lithium hydroxide | 2.93 mmol, 1.46 ml | [OH-].[Li+]
reactant | 1-acetyl-6-methyl-1H-indazol-5-yl acetate | 1.46 mmol, 340 mg | C(C)(=O)OC=1C=C2C=NN(C2=CC1C)C(C)=O | C12H12N2O3
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 2.0 ml | CO | CH4O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | 6-methyl-1H-indazol-5-ol | 199 mg, 92% | CC1=C(C=C2C=NNC2=C1)O | C8H8N2O
